US04278686
tert-Butyldiphenylsilyl (5R,6S)-3-[(E)-2-acetamidoethenylthio]-6-[(1S)-1-methylsulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (20 mg) in dichloromethane (1 ml) was treated with 1,5-diazabicyclo[5.4.0]undec-5-ene (0.05 ml of a 100 mg/ml solution in CH2Cl2) at room temperature for 20 min. The dichloromethane solution was diluted, washed with water, dried (MgSO4) and evaporated in vacuo to give tert-Butyldiphenylsilyl (5R)-3-[(E)-2-acetamidoethenylthio]-6-[(Z)-ethylidene]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (e67) (6.8 mg). νmax 1770, 1700, 1675, 1640, 1620 cm-1. δ(CDCl3 +D2O) 1.11[9H,s,C(CH3)3 ], 1.85 (3H,s,CH3CO), 2.05 (3H,d,J approx. 7 Hz, CH3CH), 3.7-3.3 (2H,m, 4--CH2), 4.4-4.7 (1 H,m, 5--CH), 5.65 (1H,d,J 14 Hz, SCH=CH), 5.83 (1H, broadened q, J ca 7 Hz, CH3CH), 7.00 (1H,d,J 14 Hz CHNH), 7.2-7.8 (10H,m,Ar--H).

reactant | tert-Butyldiphenylsilyl (5R,6S)-3-[(E)-2-acetamidoethenylthio]-6-[(1S)-1-methylsulphonyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 20 mg | C(C)(=O)N/C=C/SC1=C(N2C([C@@H]([C@H]2C1)[C@H](C)OS(=O)(=O)C)=O)C(=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C30H36N2O7S2Si
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | N12CCCN=CC2CCCC1 | C9H16N2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-Butyldiphenylsilyl (5R)-3-[(E)-2-acetamidoethenylthio]-6-[(Z)-ethylidene]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 6.8 mg | C(C)(=O)N/C=C/SC1=C(N2C(\C(\[C@H]2C1)=C/C)=O)C(=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C29H32N2O4SSi
